** sch_path: /home/azmuth/Projects/Sky130_RF_Receiver/lna/lna_sky130_match_test.sch
**.subckt lna_sky130_match_test RF_OUT
*.opin RF_OUT
XM1 RF_OUT net2 net1 GND sky130_fd_pr__nfet_01v8 L=0.15 W=40 nf=4 ad='int((nf+1)/2) * W/nf * 0.29' as='int((nf+2)/2) * W/nf * 0.29'
+ pd='2*int((nf+1)/2) * (W/nf + 0.29)' ps='2*int((nf+2)/2) * (W/nf + 0.29)' nrd='0.29 / W' nrs='0.29 / W'
+ sa=0 sb=0 sd=0 mult=1 m=1
Lload VDD RF_OUT 3n m=1
Cload VDD RF_OUT 1.5p m=1
Ls net1 GND 0.5n m=1
Lg net2 net4 2n m=1
Rs net3 net5 50 m=1
V1 net5 GND dc 0 ac 1
Rbias VBIAS net2 10k m=1
Rload RF_OUT GND 50 m=1
VB VBIAS GND 0.9
VDD1 VDD GND 1.8
C1 net3 net4 1p m=1
**** begin user architecture code


* --- Sky130 LNA testbench directives ---
* Adjust this include path to match your local sky130 install:
.lib /home/azmuth/.volare/volare/volare/sky130/versions/0fe599b2afb6708d281543108caf8310912f54af/sky130A/libs.tech/combined/sky130.lib.spice tt
.control

alter Rload 50
alter Lg 2n
alter C1 1p
alter Lload 3n
alter Cload 1.4p

alter VB 0.5
ac lin 1 2.4g 2.4g
let z05 = 1/(-i(V1))
let s05 = (z05-50)/(z05+50)
let s05db = 20*log10(abs(s05))
print z05
print s05db

alter VB 0.6
ac lin 1 2.4g 2.4g
let z06 = 1/(-i(V1))
let s06 = (z06-50)/(z06+50)
let s06db = 20*log10(abs(s06))
print z06
print s06db

alter VB 0.7
ac lin 1 2.4g 2.4g
let z07 = 1/(-i(V1))
let s07 = (z07-50)/(z07+50)
let s07db = 20*log10(abs(s07))
print z07
print s07db

alter VB 0.8
ac lin 1 2.4g 2.4g
let z08 = 1/(-i(V1))
let s08 = (z08-50)/(z08+50)
let s08db = 20*log10(abs(s08))
print z08
print s08db

alter VB 0.9
ac lin 1 2.4g 2.4g
let z09 = 1/(-i(V1))
let s09 = (z09-50)/(z09+50)
let s09db = 20*log10(abs(s09))
print z09
print s09db

alter VB 1.0
ac lin 1 2.4g 2.4g
let z10 = 1/(-i(V1))
let s10 = (z10-50)/(z10+50)
let s10db = 20*log10(abs(s10))
print z10
print s10db

alter VB 1.1
ac lin 1 2.4g 2.4g
let z11 = 1/(-i(V1))
let s11 = (z11-50)/(z11+50)
let s11db = 20*log10(abs(s11))
print z11
print s11db

.endc
**** end user architecture code
**.ends
.GLOBAL GND
.end
