** sch_path: /home/azmuth/Projects/Sky130_RF_Receiver/lna/lna_sky130_match_test.sch
**.subckt lna_sky130_match_test RF_OUT
*.opin RF_OUT
XM1 RF_OUT net2 net1 GND sky130_fd_pr__nfet_01v8 L=0.15 W=40 nf=4 ad='int((nf+1)/2) * W/nf * 0.29' as='int((nf+2)/2) * W/nf * 0.29'
+ pd='2*int((nf+1)/2) * (W/nf + 0.29)' ps='2*int((nf+2)/2) * (W/nf + 0.29)' nrd='0.29 / W' nrs='0.29 / W'
+ sa=0 sb=0 sd=0 mult=1 m=1
Lload VDD RF_OUT 3n m=1
Cload VDD RF_OUT 1.5p m=1
Ls net1 GND 0.5n m=1
Lg net2 net4 2n m=1
Rs net3 net5 50 m=1
V1 net5 GND dc 0 ac 1
Rbias VBIAS net2 10k m=1
Rload RF_OUT GND 50 m=1
VB VBIAS GND 0.9
VDD1 VDD GND 1.8
C1 net3 net4 1p m=1
**** begin user architecture code


* --- Sky130 LNA testbench directives ---
* Adjust this include path to match your local sky130 install:
.lib /home/azmuth/.volare/volare/volare/sky130/versions/0fe599b2afb6708d281543108caf8310912f54af/sky130A/libs.tech/combined/sky130.lib.spice tt
.control

alter Rload 50
alter Cload 1.4p
alter C1 1p

alter Lg 2n
ac lin 1 2.4g 2.4g
let zin2 = 1/(-i(V1))
let s112 = (zin2-50)/(zin2+50)
let s112db = 20*log10(abs(s112))
print zin2
print s112db

alter Lg 5n
ac lin 1 2.4g 2.4g
let zin5 = 1/(-i(V1))
let s115 = (zin5-50)/(zin5+50)
let s115db = 20*log10(abs(s115))
print zin5
print s115db

alter Lg 10n
ac lin 1 2.4g 2.4g
let zin10 = 1/(-i(V1))
let s1110 = (zin10-50)/(zin10+50)
let s1110db = 20*log10(abs(s1110))
print zin10
print s1110db

alter Lg 20n
ac lin 1 2.4g 2.4g
let zin20 = 1/(-i(V1))
let s1120 = (zin20-50)/(zin20+50)
let s1120db = 20*log10(abs(s1120))
print zin20
print s1120db

alter Lg 40n
ac lin 1 2.4g 2.4g
let zin40 = 1/(-i(V1))
let s1140 = (zin40-50)/(zin40+50)
let s1140db = 20*log10(abs(s1140))
print zin40
print s1140db

alter Lg 60n
ac lin 1 2.4g 2.4g
let zin60 = 1/(-i(V1))
let s1160 = (zin60-50)/(zin60+50)
let s1160db = 20*log10(abs(s1160))
print zin60
print s1160db

alter Lg 80n
ac lin 1 2.4g 2.4g
let zin80 = 1/(-i(V1))
let s1180 = (zin80-50)/(zin80+50)
let s1180db = 20*log10(abs(s1180))
print zin80
print s1180db

.endc
**** end user architecture code
**.ends
.GLOBAL GND
.end
