** sch_path: /home/azmuth/Projects/Sky130_RF_Receiver/lna/lna_sky130_match_test.sch
**.subckt lna_sky130_match_test RF_OUT
*.opin RF_OUT
XM1 RF_OUT net2 net1 GND sky130_fd_pr__nfet_01v8 L=0.15 W=40 nf=4 ad='int((nf+1)/2) * W/nf * 0.29' as='int((nf+2)/2) * W/nf * 0.29'
+ pd='2*int((nf+1)/2) * (W/nf + 0.29)' ps='2*int((nf+2)/2) * (W/nf + 0.29)' nrd='0.29 / W' nrs='0.29 / W'
+ sa=0 sb=0 sd=0 mult=1 m=1
Lload VDD RF_OUT 3n m=1
Cload VDD RF_OUT 1.5p m=1
Ls net1 GND 0.5n m=1
Lg net2 net4 2n m=1
Rs net3 net5 50 m=1
V1 net5 GND dc 0 ac 1
Rbias VBIAS net2 10k m=1
Rload RF_OUT GND 50 m=1
VB VBIAS GND 0.9
VDD1 VDD GND 1.8
C1 net3 net4 1p m=1
**** begin user architecture code


* --- Sky130 LNA testbench directives ---
* Adjust this include path to match your local sky130 install:
.lib /home/azmuth/.volare/volare/volare/sky130/versions/0fe599b2afb6708d281543108caf8310912f54af/sky130A/libs.tech/combined/sky130.lib.spice tt
.control

alter Rload 50
alter VB 0.9
alter Lg 2n
alter C1 1p
alter Lload 3n
alter Cload 1.4p

alter Ls 0.1n
ac lin 1 2.4g 2.4g
let z01 = 1/(-i(V1))
let s01 = (z01-50)/(z01+50)
let s01db = 20*log10(abs(s01))
print z01
print s01db

alter Ls 0.2n
ac lin 1 2.4g 2.4g
let z02 = 1/(-i(V1))
let s02 = (z02-50)/(z02+50)
let s02db = 20*log10(abs(s02))
print z02
print s02db

alter Ls 0.3n
ac lin 1 2.4g 2.4g
let z03 = 1/(-i(V1))
let s03 = (z03-50)/(z03+50)
let s03db = 20*log10(abs(s03))
print z03
print s03db

alter Ls 0.4n
ac lin 1 2.4g 2.4g
let z04 = 1/(-i(V1))
let s04 = (z04-50)/(z04+50)
let s04db = 20*log10(abs(s04))
print z04
print s04db

alter Ls 0.5n
ac lin 1 2.4g 2.4g
let z05 = 1/(-i(V1))
let s05 = (z05-50)/(z05+50)
let s05db = 20*log10(abs(s05))
print z05
print s05db

alter Ls 0.7n
ac lin 1 2.4g 2.4g
let z07 = 1/(-i(V1))
let s07 = (z07-50)/(z07+50)
let s07db = 20*log10(abs(s07))
print z07
print s07db

alter Ls 1n
ac lin 1 2.4g 2.4g
let z1 = 1/(-i(V1))
let s1 = (z1-50)/(z1+50)
let s1db = 20*log10(abs(s1))
print z1
print s1db

.endc
**** end user architecture code
**.ends
.GLOBAL GND
.end
